US09403807B2
Step G: tert-butyl 1-[3-(4-chlorophenyl)-2-hydroxypentan-3-yl]-1H-indazol-4-ylcarbamate
To a solution of tert-butyl 1-[2-(4-chlorophenyl)-1-oxobutan-2-yl]-1H-indazol-4-ylcarbamate (2.50 g, 6.05 mmol) in anhydrous THF (50 mL) was added methylmagnesium bromide (2.5 M in ether, 7.3 mL, 18.15 mmol) at 0° C. The mixture was stirred for anther 30 min at 0° C., then saturated NH4Cl (100 mL) was added and the mixture was extracted with EA. The combined organic layers were washed with brine (50 mL), dried over anhydrous sodium sulfate, filtered and the solvent was removed in vacuo to provide the desired product.

reactant | tert-butyl 1-[2-(4-chlorophenyl)-1-oxobutan-2-yl]-1H-indazol-4-ylcarbamate | 6.05 mmol, 2.50 g | ClC1=CC=C(C=C1)C(C=O)(CC)N1N=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C22H24ClN3O3
reactant | methylmagnesium bromide | 18.15 mmol, 2.5 M, 7.3 mL | C[Mg]Br
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-[3-(4-chlorophenyl)-2-hydroxypentan-3-yl]-1H-indazol-4-ylcarbamate | ClC1=CC=C(C=C1)C(C(C)O)(CC)N1N=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C23H28ClN3O3
